US08304557B2
N-{6-[3-(pyridin-3-ylamino)phenoxy]imidazo[1,2-a]pyridin-2-yl}cyclopropanecarboxamide
A mixture of N-[6-(3-aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (20.0 mg, 0.065 mmol), 3-bromopyridine (14.4 mg, 0.091 mmol), tris(dibenzylideneacetone)2 palladium(0) (6.8 mg, 0.0074 mmol), 5-bis(diphenylphosphino)-9,9-dimethylxanthene (4.3 mg, 0.007 mmol), potassium t-butoxide (17.2 mg, 0.153 mmol) and toluene (2.0 mL) was stirred at 120° C. for 13 hr. The reaction mixture was diluted with aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was concentrated, and the residue was purified by preparative HPLC to give the title compound (3.0 mg, 12%).

reactant | N-[6-(3-aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.065 mmol, 20.0 mg | NC=1C=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=CC1 | C17H16N4O2
reactant | 3-bromopyridine | 0.091 mmol, 14.4 mg | BrC=1C=NC=CC1 | C5H4BrN
reactant | potassium t-butoxide | 0.153 mmol, 17.2 mg | CC(C)([O-])C.[K+]
reactant | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-{6-[3-(pyridin-3-ylamino)phenoxy]imidazo[1,2-a]pyridin-2-yl}cyclopropanecarboxamide | 3.0 mg, 12% | N1=CC(=CC=C1)NC=1C=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=CC1 | C22H19N5O2
